US04623659
Following the procedure of Example 2, 3.5 g. of 2,3,4-trihydroxybenzonitrile were reacted in 60 ml. of water with 4 g. of hydroxylamine sulfate and 2 g. of sodium bisulfite at pH=8.0 (adjusted by addition of concentrated aqueous sodium hydroxide). The reaction mixture was maintained at ambient temperature for about one hour and was then cooled. 2,3,4-Trihydroxybenzamidoxime precipitated and the precipitate was collected by filtration. The filter cake was dissolved in dilute aqueous hydrochloric acid and the resulting solution filtered through activated charcoal. Evaporation of the volatile constituents from the filtrate under reduced pressure yielded 2,3,4-trihydroxybenzamidoxime as a hydrochloride salt, melting at 207° C. with decomposition after recrystallization from a methanol/ethyl acetate solvent mixture; yield=9%.

reactant | 2,3,4-trihydroxybenzonitrile | OC1=C(C#N)C=CC(=C1O)O | C7H5NO3
reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,3,4-trihydroxybenzamidoxime | yield=9% | OC1=C(C(N)=NO)C=CC(=C1O)O | C7H8N2O4
